US08461375B2
No Recycling of the Catalyst (n-/i-butyl methacrylate Preparation)
The resulting reactor effluent of 6.9 kg/h had the following composition: 67.3% by weight of i-BuMA, 12.0% by weight of i-BuOH, 19.4% by weight of MMA, 0.8% by weight of MeOH and 0.5% by weight of by-products. The space-time yield of the reactor based on i-BuMA was therefore 516 kg/h/m3. Owing to virtually complete removal of low-boiling components relative to i-BuMA, the bottom effluent of the low boiler distillation column was a crude ester (5.0 kg/h) which already contained >99.5% by weight of i-BuMA and also all of the catalyst and the stabilizer. The yield of i-BuOH based on the overall process was therefore virtually 100%. The yield of MMA based on the overall process minus the MMA loss via the MMA/MeOH azeotrope calculated beforehand was likewise virtually 100%. At an evaporation ratio (ratio of vapour stream to feed stream) in the first, larger thin-film evaporator of about 90%, 4.5 kg/h of pure i-BuMA are finally obtained at the top of the high boiler distillation column and have the following composition: >99.9% by weight of i-BuMA, <150 ppm of i-BuOH, <10 ppm of MMA, 0 ppm of di-1-butyl ether, colour number (apha)<0.2. At an evaporation ratio in the second, smaller thin-film evaporator of about 90%, the overall discharge of the process (catalyst, stabilizer, high-boiling by-products, i-BuMA) is 0.05 kg/h and the yield loss of i-BuMA based on the pure i-BuMA produced is <0.5% by weight.

reactant | MeOH | CO | CH4O
reactant | di-1-butyl ether | C(CCC)OCCCC | C8H18O
reactant | i-BuOH | C(C(C)C)O | C4H10O
product | i-butyl methacrylate | C(C(=C)C)(=O)OCC(C)C | C8H14O2
